US05925662
7.8. 2-Cyanoethyl-6-ethoxycarbonylamino-3,4-dihydro-2H-1-benzopyran
By a process analogous to that of step 6 of Example 1, starting from 2.4 g (12 mmol) of 2-cyanoethyl-6-amino-3,4-dihydro-2H-1-benzopyran, 1.24 ml (13.0 mmol) of ethyl chloroformate and 1.5 g (18 mmol) of sodium hydrogencarbonate, 2.0 g of product are obtained.

reactant | 2-cyanoethyl-6-amino-3,4-dihydro-2H-1-benzopyran | 12 mmol, 2.4 g | C(#N)CCC1OC2=C(CC1)C=C(C=C2)N | C12H14N2O
reactant | ethyl chloroformate | 13.0 mmol, 1.24 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydrogencarbonate | 18 mmol, 1.5 g | C(O)([O-])=O.[Na+]
product | 2-Cyanoethyl-6-ethoxycarbonylamino-3,4-dihydro-2H-1-benzopyran | C(#N)CCC1OC2=C(CC1)C=C(C=C2)NC(=O)OCC | C15H18N2O3
